US07977340B2
Step 4. 7-Bromo-5-pyrazol-1-yl-benzothiazol-2-ylamine
To a solution of (3-bromo-5-pyrazol-1-yl-phenyl)-thiourea (1.0 g, 3.0 mmol) in DCM (17.0 mL) at 0° C. was added dropwise a solution of Br2 (1.07 g, 6.0 mmol, in 3.0 ml of DCM) over a period of 15 min. The reaction mixture was stirred at 0° C. for 15 min followed by refluxing for 2 h. The reaction mixture was cooled to room temperature and filtered to get the crude residue that was washed with hexane and diethyl ether. The solid thus obtained was dissolved in H2O, basified with aqueous ammonia solution to pH 10-12 and extracted with ethyl acetate (×3). The combined organic was washed with water, dried (Na2SO4), filtered and concentrated. The residue was purified over silica gel (230-400 M, 25% EtOAc-Hexane) to get the desired product (0.30 g, 30%).

reactant | (3-bromo-5-pyrazol-1-yl-phenyl)-thiourea | 3.0 mmol, 1.0 g | BrC=1C=C(C=C(C1)N1N=CC=C1)NC(=S)N | C10H9BrN4S
reactant | Br2 | 6.0 mmol, 3.0 ml, 1.07 g | BrBr | Br2
reactant | ammonia | N | H3N
solvent | DCM | 17.0 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 7-Bromo-5-pyrazol-1-yl-benzothiazol-2-ylamine | 0.30 g, 30% | BrC1=CC(=CC=2N=C(SC21)N)N2N=CC=C2 | C10H7BrN4S
